US05683623
1-(2,3 -Difluorophenyl)pentan-1-ol
n-Butyllithium (50 cm3, 10.0M in hexanes, 0.5 mol) was added dropwise to a stirred, cooled (-78° C.) solution of 1,2-difluorobenzene (57 g, 0.5 mol) in dry THF (600 cm3) under an atmosphere of dry nitrogen. The mixture was maintained under these conditions (3 h) then a solution of pentanal (43.1 g, 0.5 mol), in dry THF (50 cm3) added dropwise at -78° C. The temperature of the reaction mixture was allowed to reach room temperature overnight. An aqueous solution of ammonium chloride (27 g in 160 cm3 water) was added and the product extracted into diethyl ether (2×150 cm3), the combined extracts washed with water (2×150 cm3) and dried (MgSO4). The solvent was removed in vacuo to give the product as a colourless oil which was purified by distillation under reduced pressure.

reactant | n-Butyllithium | 0.5 mol, 10.0M, 50 cm3 | C(CCC)[Li]
reactant | 1,2-difluorobenzene | 0.5 mol, 57 g | FC1=C(C=CC=C1)F | C6H4F2
reactant | pentanal | 0.5 mol, 43.1 g | C(CCCC)=O | C5H10O
reactant | ammonium chloride | 160 cm3, 27 g | [Cl-].[NH4+]
solvent | THF | 600 cm3 | C1CCOC1 | C4H8O
solvent | THF | 50 cm3 | C1CCOC1 | C4H8O
product | 1-(2,3 -Difluorophenyl)pentan-1-ol | FC1=C(C=CC=C1F)C(CCCC)O | C11H14F2O
